US08293735B2
2-Chloro-6-[(S)-1-(hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)methyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
To a solution of 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (150 mg, 0.43 mmol) in DMF (4 mL) were added (S)-octahydro-pyrrolo[1,2-a]pyrazine (81 mg, 0.642 mmol) and potassium carbonate (117 mg, 0.847 mmol). The resulting mixture was stirred at RT for 17 h, then concentrated in vacuo. The resulting residue was triturated with water to give the title compound as an off-white solid (130 mg, 77%).

reactant | 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.43 mmol, 150 mg | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
reactant | (S)-octahydro-pyrrolo[1,2-a]pyrazine | 0.642 mmol, 81 mg | C1[C@H]2N(CCN1)CCC2 | C7H14N2
reactant | potassium carbonate | 0.847 mmol, 117 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-6-[(S)-1-(hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)methyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 130 mg, 77% | ClC=1N=C(C2=C(N1)C=C(S2)CN2C[C@H]1N(CC2)CCC1)N1CCOCC1 | C18H24ClN5OS
